US07985769B2
(1R,2S,4R)-3-[Isopropyl-(2-Acetoxy-4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (36 mg, 0.17 mmol) was dissolved in a mixture of dioxane:H2O (4:1) (700 μl) and then 470 μl of LiOH 1N was added to it. After 3 h at 50° C. the reaction mixture was cooled to room temperature and the solvents were removed. The residue was then partitioned between 10 ml of H2O acidified to pH 4 and 10 ml of EtOAc. The organic layer was separated and the aqueous phase was washed with ethyl acetate (2×10 ml). The combined ethyl acetate layers were dried (Na2SO4), concentrated and the residue was purified by preparative chromatography to obtain 9 mg (29%) of (1R,2S,4R)-3-[Isopropyl-(2-hydroxy-4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid. NMR 1H (CDCl3, 400 MHz): 3:2 mixture of rotamers. 7.76-7.73 ppm (m, 2H, Haro); 7.50-7.38 ppm (m, 3H, Haro); 7.36 ppm (s, 1H, Haro); 4.93-4.87 ppm (m, 1H); 4.25 ppm (s, 0.70H, major rotamer); 3.97 ppm (s, 0.3H, minor rotamer); 2.35-2.28 ppm (m, 1H); 1.99-1.53 ppm (m, 5H); 1.28 ppm (d, 0.6H, minor rotamer); 1.25 ppm (d, 1,4H, major rotamer); 1.06-1.03 ppm (m, 3H), 0.96-0.72 ppm (m, 1H); 0.79 ppm (d, 3H); 0.67-0.56 ppm (m, 1H).

reactant | (1R,2S,4R)-3-[Isopropyl-(2-Acetoxy-4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.17 mmol, 36 mg | COC(=O)C=1SC(=CC1N(C(=O)[C@H]1[C@H](C[C@@H](CC1)C)OC(C)=O)C(C)C)C1=CC=CC=C1 | C25H31NO5S
reactant | LiOH | 1N, 470 μl | [Li+].[OH-]
solvent | dioxane H2O | 700 μl | O1CCOCC1.O
product | (1R,2S,4R)-3-[Isopropyl-(2-hydroxy-4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid | 9 mg, 29% | C(C)(C)N(C1=C(SC(=C1)C1=CC=CC=C1)C(=O)O)C(=O)[C@H]1[C@H](C[C@@H](CC1)C)O | C22H27NO4S
